US06297380B1
Piperazine-1,3-dicarboxylic acid 1-tert-butyl Ester 3-ethyl Ester
A solution of di-tert-butyl-dicarbonate (40.72 g, 0.186 mol) in CH2Cl2 (250 mL) was added slowly to a mixture of ethyl piperazine-2-carboxylate (prepared according to the method described in Step 2, 48.69 g, 0.178 mol) and triethylamine (89.74 g, 0.889 mol) in CH2Cl2 (600 mL) at 0° C. with good stirring. The mixture was stirred overnight. The reaction mixture was then washed with H2O, dried over MgSO4 and concentrated to give 43.22 g of crude product (94%). The product was taken on to the next step without any purification.

reactant | di-tert-butyl-dicarbonate | 0.186 mol, 40.72 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl piperazine-2-carboxylate | N1C(CNCC1)C(=O)OCC | C7H14N2O2
reactant | triethylamine | 0.889 mol, 89.74 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
product | Piperazine-1,3-dicarboxylic acid 1-tert-butyl Ester 3-ethyl Ester | 43.22 g, 94% | C(C)OC(=O)C1CN(CCN1)C(=O)OC(C)(C)C | C12H22N2O4
